US07816371B2
a. (R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)-2-phenylacetamide
A round bottom flask was charged with 5-nitro-isochromen-1-one (2 g, 0.01 mol), methanol (20 mL, 0.5 mol), triethylamine (3 mL, 0.02 mol) and (R)-2-amino-2-phenylacetamide hydrochloride (2.3 g, 0.012 mol) and the reaction heated at 50° C. for 3 hours. The starting material disappeared and the solvent was removed under reduced pressure and the residue purified by flash chromatography (40 g silica gel, 0-10% MeOH/DCM) to yield the product as a brown solid. MS m/z=324.3 (M+H).

reactant | 5-nitro-isochromen-1-one | 0.01 mol, 2 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | methanol | 0.5 mol, 20 mL | CO | CH4O
reactant | triethylamine | 0.02 mol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-amino-2-phenylacetamide hydrochloride | 0.012 mol, 2.3 g | Cl.N[C@@H](C(=O)N)C1=CC=CC=C1
product | (R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)-2-phenylacetamide | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)N)C1=CC=CC=C1 | C17H13N3O4
